US07439379B2
To a solution of N-[2-(2,3,4,5-tetramethylcyclopentadienyl)phenylmethylene]-N-(2,4, 6-trimethylphenyl)amine (10.0 mmol) in acetic acid (7.0 mL) was added sodium borohydride (13.0 mmol). The mixture was reacted at room temperature for 1 hr. Water and toluene were then added the reaction mixture. The organic layer was dried and concentrated. The obtained oily substance was purified by silica gel column chromatography to give N-[2-(2,3,4,5-tetramethylcyclopentadienyl)phenylmethyl]-N-(2,4,6-trimethylphenyl)amine (2.74 g, yield 69.5%) as a yellow oily substance.

reactant | N-[2-(2,3,4,5-tetramethylcyclopentadienyl)phenylmethylene]-N-(2,4, 6-trimethylphenyl)amine | 10.0 mmol | CC=1C(C(=C(C1C)C)C)C1=C(C=CC=C1)C=NC1=C(C=C(C=C1C)C)C | C25H29N
reactant | sodium borohydride | 13.0 mmol | [BH4-].[Na+]
reactant | Water | O | H2O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | 7.0 mL | C(C)(=O)O | C2H4O2
product | N-[2-(2,3,4,5-tetramethylcyclopentadienyl)phenylmethyl]-N-(2,4,6-trimethylphenyl)amine | 2.74 g, yield 69.5% | CC=1C(C(=C(C1C)C)C)C1=C(C=CC=C1)CNC1=C(C=C(C=C1C)C)C | C25H31N
